US08802064B2
6-Bromo-1-hydroxyisoquinoline (150 mg, 0.67 mmol, 1.0 equiv), tetrabutylammonium bromide (25 mg, 0.07 mmol, 0.1 equiv), and benzyl bromide (95 uL, 0.8 mmol, 1.2 equiv) were combined in toluene (7 mL), and treated with 50% aq. NaOH (2 mL) after which point the resulting mixture was stirred rapidly at 90° C. After 80 min, the mixture was diluted with MTBE and washed with water and brine. The organic phase was dried over Na2SO4. Addition of silica gel, concentration, and purification of the residue by flash silica gel chromatography (gradient of 2-12% ethyl acetate/hexanes) provided 2-benzyl-6-bromo-isoquinolin-1-one (221 mg, 0.67 mmol, quantitative) which was then converted, via Methods 1 and 2, to compound 2 (91 mg, 49%) and isolated as a light-brown solid. [M-H]-=278.1 m/z. Activity: B

reactant | 6-Bromo-1-hydroxyisoquinoline | 0.67 mmol, 150 mg, 1.0 equiv | BrC=1C=C2C=CN=C(C2=CC1)O | C9H6BrNO
reactant | benzyl bromide | 0.8 mmol, 95 uL, 1.2 equiv | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaOH | 2 mL | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.07 mmol, 25 mg, 0.1 equiv | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 2-benzyl-6-bromo-isoquinolin-1-one | 0.67 mmol, 221 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C=C1)Br)=O | C16H12BrNO
